US07741327B2
3-(2,3-Dichloro-phenoxy)-4-{(1S,3R)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butylamino}-but-2-enoic acid ethyl ester (60 mg) was dissolved in tetrahydrofuran (2 mL). The sealed tube was heated in a microwave at 160° C. for 4 h. The resulting solution was concentrated and the residue was purified by reverse phase column chromatography (acetonitrile in water 25% to 100%) to afford (2S,4R)-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide (18 mg, 32%): HR-ES-MS m/z calculated for C24H30Cl2N4O5 [M+H]+ 525.1666, observed 525.1669; 1H NMR (300 MHz, CDCl3) δ ppm 1.16 (s, 6H), 1.17-1.27 (m, 6H), 1.84-2.01 (m, 1H), 2.20-2.33 (m, 1H), 3.24-3.40 (m, 1H), 3.49-3.70 (m, 2H), 3.80 (br. s., 1H), 3.95 (s, 2H), 4.27 (d, J=17.8 Hz, 1H), 4.41 (d, J=17.8 Hz, 1H), 4.92 (s, 1H), 5.05 (t, J=7.2 Hz, 1H), 6.69 (d, J=1.9 Hz, 1H), 7.19 (dd, J=8.2, 1.2 Hz, 1H), 7.23-7.27 (m, 1H), 7.31 (d, J=1.9 Hz, 1H), 7.42 (dd, J=8.2, 1.2 Hz, 1H), 8.91 (br. s., 1H).

reactant | 3-(2,3-Dichloro-phenoxy)-4-{(1S,3R)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butylamino}-but-2-enoic acid ethyl ester | 60 mg | C(C)OC(C=C(CN[C@@H](C[C@@H](C)OCC)C(NC1=NN(C=C1)CC(C)(C)O)=O)OC1=C(C(=CC=C1)Cl)Cl)=O | C26H36Cl2N4O6
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2S,4R)-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide | 18 mg, 32% | OC(CN1N=C(C=C1)NC([C@H](C[C@@H](C)OCC)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)Cl)=O)=O)(C)C | C24H30Cl2N4O5
